US04163048
N-(3-Methyl-1,2,4-oxadiazol-5-yl)-N-isopropyl-2-methylpropanamide
isoButyric anhydride (7.9 g, 0.05 mole) was added to isopropylamino-3-methyl-1,2,4-oxadiazole and heated at 100° C. overnight. On cooling, methanol (60 ml) and a few drops of triethylamine were added and refluxed for 1 hour. After removal of the methanol under vacuum, the residue was taken up in ether and washed twice with a saturated solution of NaHCO3. (b.p. 90° C./1.3 mmHg. Kugelrohr airbath temperature).

reactant | isoButyric anhydride | 0.05 mole, 7.9 g | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
reactant | isopropylamino-3-methyl-1,2,4-oxadiazole | C(C)(C)NC1=NC(=NO1)C | C6H11N3O
catalyst | triethylamine | a few drops | C(C)N(CC)CC | C6H15N
solvent | methanol | 60 ml | CO | CH4O
product | N-(3-Methyl-1,2,4-oxadiazol-5-yl)-N-isopropyl-2-methylpropanamide | CC1=NOC(=N1)N(C(C(C)C)=O)C(C)C | C10H17N3O2
